US06777418B2
To a mixture of 2-(1,3-dioxolan-2-yl)-3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene (250 mg, 0.74 mmol) and tetrakis(triphenylphospine)palladium(0) (21 mg, 0.018 mmol) under an argon atmosphere was added a 0.5 M tetrahydrofuran solution of 4-methylbenzylzinc chloride (7.3 mL, 3.68 mmol). The reaction mixture was stirred at reflux overnight and partitioned between saturated ammonium chloride solution and ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by preparative thin layer chromatography on silica gel (5% ethyl acetate/hexane) to give 2-(1,3-dioxolan-2-yl)-3-(4-methylbenzyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene as a white crystalline solid (240 mg, 89%).

reactant | 2-(1,3-dioxolan-2-yl)-3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 0.74 mmol, 250 mg | O1C(OCC1)C1=CC=2C(CCC(C2C=C1Br)(C)C)(C)C | C17H23BrO2
reactant | 4-methylbenzylzinc chloride | 3.68 mmol, 7.3 mL | [Cl-].CC1=CC=C(C[Zn+])C=C1
solvent | tetrahydrofuran | 0.5 M | O1CCCC1 | C4H8O
product | 2-(1,3-dioxolan-2-yl)-3-(4-methylbenzyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 240 mg, 89% | O1C(OCC1)C1=CC=2C(CCC(C2C=C1CC1=CC=C(C=C1)C)(C)C)(C)C | C25H32O2
